US09084794B2
(+)-2-(4-ethyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-2-(2-fluoro-4-(3-methoxyquinolin-7-yl)phenyl)acetamide
To a solution of 2-(4-bromo-2-fluorophenyl)-2-(4-ethyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetamide (198 mg, 0.46 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (117 mg, 0.46 mmol), and potassium acetate (91 mg, 0.92 mmol) in 1,4-dioxane (2.5 mL) was added PdCl2(dppf)-CH2Cl2 adduct (38 mg, 0.046 mmol). The reaction mixture was purged with nitrogen and heated at 120° C. for 4 h. The reaction mixture was cooled and 7-bromo-3-methoxyquinoline (110 mg, 0.46 mmol) and 2M aq K2CO3 (0.51 mL, 1.02 mmol) were added. The reaction mixture was purged with nitrogen and was heated with stirring at 100° C. for 1 h. The reaction mixture was diluted with dichloromethane (60 mL) and any salts were filtered away. The organic mixture was filtered through a plug of celite and sodium sulfate and the filtrate was treated with a small amount of Silicycle Si-thiol resin for 30 min. The mixture was filtered and concentrated in vacuo. Purification of the residue by reverse phase HPLC (10-70% acetonitrile:water with 0.1% NH4OH) afforded the racemic title product, which was resolved by chiral HPLC (Chromegachiral CC4, methanol) to afford the title product in >98% ee (45 mg, 19% yield). αD=+56° (c=0.02, methanol); MS(ES)+ m/e 507 [M+H]+; 1H NMR (400 MHz, CD2Cl2) δ ppm 1.12 (t, J=7.07 Hz, 3 H) 1.68-1.80 (m, 2 H) 1.90-2.02 (m, 2 H) 2.31-2.41 (m, 1 H) 2.58-2.71 (m, 2 H) 2.72-2.80 (m, 1 H) 3.18 (s, 2 H) 3.41 (d, J=7.33 Hz, 2 H) 4.01 (s, 3 H) 4.02 (d, J=1.77 Hz, 2 H) 4.52 (s, 1 H) 5.65 (d, J=4.55 Hz, 1 H) 7.21-7.33 (m, 1 H) 7.44-7.56 (m, 3 H) 7.61 (dd, J=7.96, 1.89 Hz, 1 H) 7.81-7.94 (m, 2 H) 8.30 (s, 1 H) 8.71 (d, J=3.03 Hz, 1 H).

reactant | 2-(4-bromo-2-fluorophenyl)-2-(4-ethyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetamide | 0.46 mmol, 198 mg | BrC1=CC(=C(C=C1)C(C(=O)N)N1CCC2(CN(C(CO2)=O)CC)CC1)F | C18H23BrFN3O3
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 0.46 mmol, 117 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 0.92 mmol, 91 mg | C(C)(=O)[O-].[K+]
reactant | 7-bromo-3-methoxyquinoline | 0.46 mmol, 110 mg | BrC1=CC=C2C=C(C=NC2=C1)OC | C10H8BrNO
reactant | K2CO3 | 1.02 mmol, 2M, 0.51 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,4-dioxane | 2.5 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) CH2Cl2 | 0.046 mmol, 38 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | (+)-2-(4-ethyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-2-(2-fluoro-4-(3-methoxyquinolin-7-yl)phenyl)acetamide | C(C)N1C(COC2(C1)CCN(CC2)C(C(=O)N)C2=C(C=C(C=C2)C2=CC=C1C=C(C=NC1=C2)OC)F)=O | C28H31FN4O4
